US05084463
Step 4) Preparation of 2-[N-[3-(4-Nitrophenoxy)propyl]methylamino methyl]quinoxaline
To a stirred suspension of 2-(methylaminomethyl)quinoxaline (1.10 g, 6.35 mmol) and potassium carbonate (0.88 g, 6.35 mmol) in 2:1 acetonitrile/ethanol (40 mL) was added 1-(4-nitrophenoxy)-3-iodopropane (1.95 g, 6.35 mmol). The resulting mixture was heated at 85° C. overnight, concentrated, and partitioned between ethyl acetate and 10% aqueous potassium carbonate. The organic phase was dried (MgSO4), decolorized (charcoal), and concentrated to afford 1.86 g (83%) of product as a yellow semi-solid which was of sufficient purity to use in the next step.

reactant | 2-(methylaminomethyl)quinoxaline | 6.35 mmol, 1.10 g | CNCC1=NC2=CC=CC=C2N=C1 | C10H11N3
reactant | potassium carbonate | 6.35 mmol, 0.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-nitrophenoxy)-3-iodopropane | 6.35 mmol, 1.95 g | [N+](=O)([O-])C1=CC=C(OCCCI)C=C1 | C9H10INO3
solvent | acetonitrile ethanol | 40 mL | C(C)#N.C(C)O
product | 2-[N-[3-(4-Nitrophenoxy)propyl]methylamino methyl]quinoxaline | 1.86 g, 83% | [N+](=O)([O-])C1=CC=C(OCCCN(C)CC2=NC3=CC=CC=C3N=C2)C=C1 | C19H20N4O3
